US05641772
5,11-Dihydro-11-[[4-[3-[(benzoyl)ethylamino]propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride
Prepared analogously to Example 1 from 5,11-dihydro-11-[[4-[3-(ethylamino)propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and benzoic acid chloride. The free base is dissolved in ethyl acetate and the dihydrochloride is precipitated by the addition of ethereal hydrochloric acid. The desired compound is obtained in a yield of 62% by recrystallisation from ethanol.

reactant | 5,11-dihydro-11-[[4-[3-(ethylamino)propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)NCCCC1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H31N5O2
reactant | benzoic acid chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,11-Dihydro-11-[[4-[3-[(benzoyl)ethylamino]propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride | yield of 62% | Cl.Cl.C(C1=CC=CC=C1)(=O)CCNCCCC1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C31H35N5O3.2ClH/c37-28(24-9-2-1-3-10-24)14-19-32-17-6-8-23-15-20-35(21-16-23)22-29(38)36-27-13-5-4-11-25(27)31(39)34-26-12-7-18-33-30(26)36;;/h1-5,7,9-13,18,23,32H,6,8,14-17,19-22H2,(H,34,39);2*1H
